US07691843B2
(+)-trans-1-(3,4-Dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid hydroxyamide was prepared from (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid benzyloxyamide by following Method H in 90% yield. The reaction was conducted at room temperature using a balloon of hydrogen for 1 h. ESMS: 351.6 [M+H]. 1H NMR (300 MHz, CD3OD): 6.93 (s, 1H), 6.90 (s, 1H), 4.80 (m, 1H), 4.48 (m, 1H), 4.32 (m, 1H), 3.75 (s, 3H), 3.71 (s, 3H), 2.62 (m, 1H), 2.49 (t, 2H), 1.85 (m, 1H), 1.72 (m, 1H), 1.50 (m, 2H), 0.84 (t, 6H)

reactant | (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid benzyloxyamide | C(C1=CC=CC=C1)ONC(=O)[C@@H]1N(C[C@H]1CC)C(C1=CC(=C(C(=C1)CCC)OC)OC)=O | C25H32N2O5
reactant | hydrogen | [H][H] | H2
product | (+)-trans-1-(3,4-Dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid hydroxyamide | 90% yield | ONC(=O)[C@@H]1N(C[C@H]1CC)C(C1=CC(=C(C(=C1)CCC)OC)OC)=O | C18H26N2O5
